US09238640B2
Preparation of 2-(3,5-Dimethyl-4-(2-(piperidin-1-yl)ethoxy)phenyl)-5,7-dimethoxyquinazolin-4(3H)-one
To a solution of 2-[4-(2-bromo-ethoxy)-3,5-dimethyl-phenyl]-5,7-dimethoxy-3H-quinazolin-4-one (0.34 g, 0.78 mmol) in DMF (10 mL) was added piperidine (0.27 g, 3.14 mmol). The reaction mixture was stirred at room temperature for 16 hours. Then, water was added and the product was extracted with ethyl acetate (2×200 mL). The combined organic layer was washed with water, then brine, and dried over anhydrous Na2SO4. Solvent was evaporated to give the title compound as a white solid. Yield: 0.33 g (96%). 1H NMR (400 MHz, DMSO-d6): δ 11.80 (br s, 1H), 7.87 (s, 2H), 6.72 (d, J=2.4 Hz, 1H), 6.49 (d, J=2.0 Hz, 1H), 3.86 (m, 6H), 3.82 (s, 2H), 2.63 (t, J=5.6 Hz, 2H), 2.42 (m, 4H), 2.28 (s, 6H), 1.50 (m, 4H), 1.37 (m, 2H). MS (ES) m/z 438.63 (M+1).

reactant | 2-[4-(2-bromo-ethoxy)-3,5-dimethyl-phenyl]-5,7-dimethoxy-3H-quinazolin-4-one | 0.78 mmol, 0.34 g | BrCCOC1=C(C=C(C=C1C)C1=NC2=CC(=CC(=C2C(N1)=O)OC)OC)C | C20H21BrN2O4
reactant | piperidine | 3.14 mmol, 0.27 g | N1CCCCC1 | C5H11N
reactant | water | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 2-(3,5-Dimethyl-4-(2-(piperidin-1-yl)ethoxy)phenyl)-5,7-dimethoxyquinazolin-4(3H)-one | CC=1C=C(C=C(C1OCCN1CCCCC1)C)C1=NC2=CC(=CC(=C2C(N1)=O)OC)OC | C25H31N3O4
